US06987114B1
1-(Cyclobutyl)methyl-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Ehtyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and (cyclobutyl)methyl para-toluenesulfonate were reacted by the same way with the example 1 to obtain the titled compound (179 mg, yield: 52.6%).

reactant | 5-Ehtyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C15H16N2O3
reactant | (cyclobutyl)methyl para-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCC1)C | C12H16O3S
product | 1-(Cyclobutyl)methyl-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 179 mg, yield: 52.6% | C1(CCC1)CN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)CC)=O)=O | C20H24N2O3
